US04339443
Sodium acetylpentylphosphinate
A solution of methyl acetylpentylphosphinate (5.0 g, 0.026 mol) and oven-dried sodium iodide (3.9 g, 0.026 mol) in freshly distilled ethyl methyl ketone (50 ml) was refluxed for 1hour.

reactant | methyl acetylpentylphosphinate | 0.026 mol, 5.0 g | C(C)(=O)CCCCCP(OC)=O | C8H17O3P
reactant | sodium iodide | 0.026 mol, 3.9 g | [I-].[Na+]
solvent | ethyl methyl ketone | 50 ml | CC(=O)CC | C4H8O
product | Sodium acetylpentylphosphinate | C(C)(=O)CCCCCP([O-])=O.[Na+] | InChI=1S/C7H15O3P.Na/c1-7(8)5-3-2-4-6-11(9)10;/h11H,2-6H2,1H3,(H,9,10);/q;+1/p-1
